US07435815B2
N,N-Di-n-propyl-2-[(toluene-2-sulfonyl)-p-tolyl-amino]-acetamide
prepared by reaction of 2-bromoacetyl bromide with di-n-propylamine and 2-methyl-N-p-tolyl-benzenesulfonamide

reactant | 2-bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
reactant | di-n-propylamine | C(CC)NCCC | C6H15N
reactant | 2-methyl-N-p-tolyl-benzenesulfonamide | CC1=C(C=CC=C1)S(=O)(=O)NC1=CC=C(C=C1)C | C14H15NO2S
product | N,N-Di-n-propyl-2-[(toluene-2-sulfonyl)-p-tolyl-amino]-acetamide | C(CC)N(C(CN(C1=CC=C(C=C1)C)S(=O)(=O)C=1C(=CC=CC1)C)=O)CCC | C22H30N2O3S
